US05536718
4,5-Dihydro-pyrrolo-[1,2-a]-quinoxaline
To a solution of 1.0 g of 1-(2-nitrophenyl)-1H-pyrrole-2-carboxaldehyde in 40 ml of ethyl alcohol and 40 ml of ethyl acetate, under argon, is added 40 mg of 10% Pd/C. The mixture is hydrogenated at 40 psi for 2 hours and filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a residue which is dissolved in ether and treated with hexanes to give 0.35 g of the desired product as a beige solid, m.p. 108°-110° C.

reactant | 1-(2-nitrophenyl)-1H-pyrrole-2-carboxaldehyde | 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1C(=CC=C1)C=O | C11H8N2O3
solvent | ethyl alcohol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4,5-Dihydro-pyrrolo-[1,2-a]-quinoxaline | 0.35 g | C1=CC=C2N1C1=CC=CC=C1NC2 | C11H10N2
